US07015348B2
To a solution of 17.83 g (0.09679 mol) of methyl 2-(2-thenoyl)acetate in 180 ml of methanol, 36.62 g (0.5807 mol) of ammonium formate was added, and the resulting mixture was heated under reflux for 38 hours. After completion of the reaction, the reaction mixture was cooled to room temperature, and the solvent was evaporated off under reduced pressure. To the residue, 100 ml of ethyl acetate and 100 ml of water were added, and the mixture was stirred at room temperature for 30 minutes. Then, the organic layer was separated, and the aqueous layer was extracted with 50 ml of ethyl acetate. The organic layers were combined, washed with 40 ml of water and with 40 ml of a brine successively and dried over sodium sulfate. The solvent was removed under reduced pressure, and the residue was then distilled to give the objective methyl 3-amino-3-thiophen-2-yl-acrylate (15.80 g, colorless liquid). The yield was 89.1%.

reactant | methyl 2-(2-thenoyl)acetate | 0.09679 mol, 17.83 g | C1(=CC=CS1)C(=O)CC(=O)OC | C8H8O3S
reactant | ammonium formate | 0.5807 mol, 36.62 g | C(=O)[O-].[NH4+]
solvent | methanol | 180 ml | CO | CH4O
product | methyl 3-amino-3-thiophen-2-yl-acrylate | 15.80 g, yield was 89.1% | NC(=CC(=O)OC)C=1SC=CC1 | C8H9NO2S
